US06989392B2
8-(2-(2-((2-aminoquinolin-8-yl)oxy)ethoxy)ethoxy)-quinolin-2-amine
A 20 mL scintillation vial equipped with a septum cap was charged with PS-PPh3 resin (Aldrich Chemical Co., Inc, 132 mg, 4.2 equiv) 2-amino-8-hydroxyquinoline (151 mg, 10 equiv) and DBAD (70 mg, 3.2 equiv) and purged by passing a stream of N2 for 45 seconds. Anhydr. THF (2.0 mL) was added and contents of the vial were agitated for 5 min. Then, a solution of diethylene glycol (10 mg, 0.094 mmol) in anhydr. THF (1 mL) was added to the vial and the resulting suspension was agitated at room temperature for 8 h. The suspension was then filtered, and the resin washed with DMA (6×3.0 mL). The filtrate and washings were combined and evaporated in vacuo. The resulting solid was washed with EtOAc (2.5 mL) DMF (3.0 mL) and hexanes (50 mL in a few portions) and dried under high vacuum at room temperature for 12 h to afford the product. 1H NMR (500 MHz, CDCl3) δ ppm 8.06 (d, 2H), 7.34 (t, 2H), 7.29 (m, 2H), 7.13 (m, 2H), 7.06 (d, 2H), 4.36 (m, 4H), 4.08 (m, 4H); MS (DCI/NH3) m/z 391 [M+H]+.

reactant | PPh3 | 132 mg, 4.2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-amino-8-hydroxyquinoline | 151 mg, 10 equiv | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | DBAD | 70 mg, 3.2 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | diethylene glycol | 0.094 mmol, 10 mg | C(COCCO)O | C4H10O3
reactant | NH3 | N | H3N
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 8-(2-(2-((2-aminoquinolin-8-yl)oxy)ethoxy)ethoxy)-quinolin-2-amine | NC1=NC2=C(C=CC=C2C=C1)OCCOCCOC=1C=CC=C2C=CC(=NC12)N | C22H22N4O3
